# Simple netlist with transmission line
.options shell = False
.vars iin = .5mA
.analysis op elemop=1 intvars=1


idc:i1 gnd 20 idc=iin
res:r1 20 2 r=10k
tlinps4:tline1 2 gnd 3 gnd alpha=0
res:r2 3 gnd r=1k
svdiode:d1 3 gnd

.end


